US04092311
Ethyl 3-[6-(p-cyanophenyl)-3-pyridazinyl]carbazate
A mixture of 0.40 g. of 6-(p-cyanophenyl)-3-chloropyridazine and 0.70 g. of 97% ethyl carbazate in 25 ml. of n-butanol is prepared. The solution is stirred and heated at reflux temperature for 4 hours. The reaction mixture is cooled to room temperature and the product precipitated from solution. The product is filtered, washed with n-butanol, water, dried and recrystallized from ethanol giving a crystalline material, m.p. 235° C.

reactant | 6-(p-cyanophenyl)-3-chloropyridazine | C(#N)C1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C11H6ClN3
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | n-butanol | C(CCC)O | C4H10O
product | Ethyl 3-[6-(p-cyanophenyl)-3-pyridazinyl]carbazate | C(#N)C1=CC=C(C=C1)C1=CC=C(N=N1)NNC(=O)OCC | C14H13N5O2
